2127-12-24 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**Hospital 11309**] [**Hospital 2428**] Rehab and will fax over what records they have. Conact
   [**Doctor First Name 9011**] [**Telephone/Fax (1) 11310**].
   -- Called [**Last Name (un) 2491**] regarding [**12-12**] admission reports. D/C summary in
   chart showed respiratory failure due to over sedation after fracture
   leading to aspiration and hypoxia. Was unable to wean off vent. TTE
   showed apical LV thrombus and CT showed multiple PE. He was treated
   with fondaparinux.  He was AAO and neurologically intact prior to the
   admission.
   --per records s/p MI in [**2111**] and [**2114**]. MI in [**2114**] was accompanied by
   cardiac arrest and has [**Doctor Last Name **] on Sotalol since then  (no ICD was placed).
   -- GI: Will scope if overall plan for agressive care
   -- Primary care: no ECHO, C scope, advance directives
   -- Curbsided EP, Sotalol appropriate in ischemic heart disease
   -- Neuro consulted for ? anoxic brain injury, needs MRI / EEG
   -- Family meeting tomorrow at 1:30pm
   -- Transfused 1U PRBC, HCT 23.2 -> 24.2, gave another
   -- ECHO with 40-45% EF / apical and anterior akinesis
   -- Having runs of NSVT overnight, 15 beats max, QT not prolonged
 TRANSTHORACIC ECHO - At [**2127-12-23**] 03:06 PM
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2127-12-23**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-24**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,400 units/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2127-12-23**] 10:40 AM
   Propofol - [**2127-12-23**] 04:53 PM
   Lorazepam (Ativan) - [**2127-12-23**] 10:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-24**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 62 (62 - 73) bpm
   BP: 91/57(66) {86/50(58) - 122/81(89)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (4 - 13)mmHg
   Total In:
                                                                  3,524 mL
                                                                    779 mL
   PO:
   TF:
   IVF:
                                                                  2,764 mL
                                                                    429 mL
   Blood products:
                                                                    700 mL
                                                                    350 mL
   Total out:
                                                                    485 mL
                                                                      0 mL
   Urine:
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,039 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 98%
   ABG: ///31/
   Ve: 11.4 L/min
   Physical Examination
   GENERAL: sedated, intubated
   HEENT:Intubated, ET tube in place
   CARDIAC:  Regular rate and rhythm
   LUNG: scattered rhonchi anteriorly
   ABDOMEN: Soft, non-distended, BS present
   EXT:  edema R>L
   NEURO:not responsive to verbal stimuli
   Cool extremities
   Labs / Radiology
   204 K/uL
   8.2 g/dL
   139 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   32 mg/dL
   105 mEq/L
   140 mEq/L
   25.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2127-12-23**]  04:33 AM
                             [**2127-12-23**]  05:29 AM
                             [**2127-12-23**]  11:47 AM
                             [**2127-12-23**]  11:44 PM
                             [**2127-12-24**]  01:53 AM
                             [**2127-12-24**]  06:16 AM
   WBC
   17.4
   13.0
   Hct
   24.7
   23.2
   24.2
   24.5
   25.0
   Plt
   233
   204
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   36
   Glucose
   186
   143
   139
   Other labs: PT / PTT / INR:13.8/79.4/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:86.8 %, Lymph:9.0 %,
   Mono:2.8 %, Eos:1.0 %, Lactic Acid:1.6 mmol/L, Ca++:7.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   72 year old male with h/o CAD & COPD presents after MVC complicated by
   post-op PE requiring prolonged intubation with Hct drop and presumed
   LGIB.
   #. Mental Status: Unclear as to prognosis. Pt minimally responsive. Pt
   evaluated by neuro. Plan for MRI and EEG to better assess long-term
   prognosis
   - f/u neuro
   - MRI today
   - EEG today
   - family meeting
   # Respiratory: Pts respiratory compromise is multifactorial, including
   pulmonary embolism, COPD and aspiration pneumonia/HAP.  He has been
   treated with Cefepime based on a sputum culture growing Enterobacter
   aerogenes; then his abx were changed to Zosyn after repeat CXR [**12-11**]
   showed new left sided infiltrate which improved his WBC; he was to
   complete a 10 day course of abx.
   - sputum culture from [**12-9**] with enterobacter (resistant to ampicillin,
   some cephalosporins)
   -Cont Vanc/Zosyn today is day 11 day course for VAP.
   -CXR daily
   -Resume heparin gtt
   -Family meeting today to discuss long term goals of care- and if neuro
   function intact will plan for trach/peg
   #Hypotension- [**Month (only) 8**] be [**12-23**] to infection (elevated WBC, Left sided pna on
   CXR) vs sedation vs GIB. Cortisol random was 22.
   -Presume [**12-23**] sedation vs anemia
   -wean Vasopressin and will use levophed for MAP>65
   #LGIB-Pt noted to have bright red blood at rehab while on heparin gtt;
   gtt has been stopped. He was evaluated at OSH and noted to have 7pt Hct
   drop and received 1U prbcs. Per report, pt had EGD at OSH and not able
   to visualize anything (? no source of UGIB). Differential diagnosis
   includes diverticulosis vs AVM vs maligancy, however given slow down
   trend in Hct suspect oozing.
   -Resumed heparin given PE/LV thrombus
   - will transfuse for Hct > 25,
   - recheck Hct q12
   -Holding anti-HTNs
   - GI following; plan for possible c-scope pending neuro status/goals of
   care
   -Pt has CVL and PICC in place
   .
   #LV Thrombus/PE- Patient had echo which showed LV thrombus requiring
   anti-coagulation, also with PE post op
   -Resumed heparin gtt yesterday given hct stable
   -ECHO showed 40-45% EF / apical and anterior akinesis
   -Pending GI evaluation; may need consideration for IVC filter
   .
   #H/o CAD s/p cardiac arrest [**2114**] and a.fibb
   -Continue Sotalol per home regimen (d/w EP and okay to use in ischemic
   heart dz)
   - TTE as above showed EF 45%, anterior akinesis
   -Hold aspirin
   -Holding BB in setting of GIB/Hypotension
   #Borderline DM- Per OSH pt required 40U Lantus with ISS
   -Continue above regimen for now ([**11-22**] when NPO)
   .
   # FEN: NPO for now
   # PPX: H2 blocker, heparin gtt, bowel regimen
   # ACCESS: CVL (placed [**12-22**] at OSH)
   # CODE: DNR- family mtg today
   # CONTACT:  [**Name (NI) **] discuss with family regarding goals of care
   # DISPO: ICU
 RESPIRATORY FAILURE, CHRONIC
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   PICC Line - [**2127-12-23**] 04:20 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU

2127-12-24 11:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status,
   refractory hypotension on vasopressin.
   24 Hour Events:
   Neurology
s input appreciated. Family discussion overnight to re-assess
   patient's preferences in goals of care have resulted in family wanting
   to hold off on further intervention for now, await Neuro input and
   further fam mtg. Transfused 2u prbc overnight w/ hct 23 --> 25.
   History obtained from Patient
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2127-12-23**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-24**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Propofol - [**2127-12-23**] 04:53 PM
   Lorazepam (Ativan) - [**2127-12-23**] 10:43 PM
   Other medications:
   Zetia, fentanyl patch, Ca, Insulin, albuterol sched, lansoprazole,
   sotalol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-24**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 68 (62 - 76) bpm
   BP: 122/68(81) {86/50(58) - 135/81(92)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (4 - 13)mmHg
   Total In:
                                                                  3,524 mL
                                                                    853 mL
   PO:
   TF:
   IVF:
                                                                  2,764 mL
                                                                    503 mL
   Blood products:
                                                                    700 mL
                                                                    350 mL
   Total out:
                                                                unclear mL
                                                                    500 mL
   Urine:
                                                                unclear mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,039 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 743 (743 - 743) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 89%
   ABG: ///31/
   Ve: 17.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, Skin:  Cool
   Neurologic:  Sedated, non-responsive
   Labs / Radiology
   8.2 g/dL
   204 K/uL
   139 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   32 mg/dL
   105 mEq/L
   140 mEq/L
   25.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2127-12-23**]  04:33 AM
                             [**2127-12-23**]  05:29 AM
                             [**2127-12-23**]  11:47 AM
                             [**2127-12-23**]  11:44 PM
                             [**2127-12-24**]  01:53 AM
                             [**2127-12-24**]  06:16 AM
   WBC
   17.4
   13.0
   Hct
   24.7
   23.2
   24.2
   24.5
   25.0
   Plt
   233
   204
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   36
   Glucose
   186
   143
   139
   Other labs: PT / PTT / INR:13.8/79.4/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:86.8 %, Lymph:9.0 %,
   Mono:2.8 %, Eos:1.0 %, Lactic Acid:1.6 mmol/L, Ca++:7.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: cortisol (random)- 22
   Imaging: Echo- EF 45%, apical and ant AK, no LV thrombus
   EEG
 possible seizure activity, prelim report
   CXR- bilat hilar infil and effusions; no change
   Microbiology: cath tip, blood cx pending
   Assessment and Plan
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status,
   refractory hypotension on vasopressin.
   (1) UNCERTAIN MENTAL STATUS- per neuro eval, brainstem fxn intact but
   extent of cerebral fxn uncertain
   -EEG shows possible seizure activity, plan for continuous EEG
   monitoring and anti-seizure treatment.
   - will likely need MRI
   - minimize sedation
   (2) RESPIRATORY FAILURE- persistent; causes include pneumonia, poss
   pulm edema, PE, COPD
   -on empiric ABX for now; f/u cultures
   -still intermittently pressor dependent so hold off on diuresis for now
   -cautious anticoag w/ heparin gtt
   -COPD appears stable clinically; scheduled nebs
   (3) [**Name (NI) 11316**] unclear etiology or if pt even needs pressors as BPs
   reasonable. considering occult infxn, GIB.
   -wean off vasopression and use Levophed if MAP <65
   -cont gentle IVF (CVP 6 this AM)
   (4) GI BLEED-
   -GI following, scope deferred for family mtg
   -follow serial hct, goal hct 25
   -ppi [**Hospital1 **], holding ASA
   (5) CAD/CHF/ AFIB-
   -on sotalol and heparin gtt
   -ASA and BB held for now
   -echo reviewed without LV thrombus
   ICU Care
   Nutrition:
   Comments: deferred
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: meeting was held today with patient
s wife, [**Name (NI) 488**], RN
   and Dr [**First Name8 (NamePattern2) **] [**Name (NI) 284**]. Decision was made to go ahead with trach/peg to give
   Mr [**Known lastname 11298**] a chance to recover. She is clear about her husband
s wishes
   to not be chronically vented.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2127-12-25 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- spoke with wife regarding goals of care. Would like to pursue trach
   and PEG for now. If pt without any improvement in mental status will
   consider withdrawl of care later on.
   -- neurology: pt with brainstem and likely cortical function. Need to
   further assess.
   -- EEG showed likely seizure activity. Pt placed on 24hr EEG
   monitoring. Started fosphenytoin 1500mg x1 then 150mg q8.
   -- IP consulted for trach and PEG, plan for Friday
   Would like us to get LENI in AM to r/o DVT. If + needs IVC filter via
   IR
   -- vasopressin weaned off
   -- pt hypotensive with SBP 80's improved initially with 500cc bolus x2
   -- started levophed for SBP 70-80's
   -- placed a-line
   -- worsening hypoxia and increased to FiO2 100% and PEEP 15
   -- 7.37/49/165/29 --> FiO2 to 50%
   -- MRI performed
   -- 7.4/39/104 --> PEEP being titrated 8
 PICC LINE - STOP [**2127-12-24**] 08:00 AM
 EEG - At [**2127-12-24**] 12:08 PM
 EEG - At [**2127-12-24**] 06:36 PM
 ARTERIAL LINE - START [**2127-12-24**] 10:25 PM
 MAGNETIC RESONANCE IMAGING - At [**2127-12-25**] 02:00 AM
   head
 ULTRASOUND - At [**2127-12-25**] 06:22 AM
   LENI'S
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2127-12-24**] 07:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-25**] 02:13 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-25**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 59 (47 - 76) bpm
   BP: 120/70(88) {101/52(68) - 123/70(88)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 30 (6 - 259)mmHg
   Total In:
                                                                  3,091 mL
                                                                    416 mL
   PO:
   TF:
   IVF:
                                                                  2,741 mL
                                                                    416 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,495 mL
                                                                    435 mL
   Urine:
                                                                  2,495 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    596 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 743 (743 - 743) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/39/103/28/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   199 K/uL
   8.9 g/dL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   23 mg/dL
   108 mEq/L
   141 mEq/L
   27.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2127-12-23**]  11:47 AM
                             [**2127-12-23**]  11:44 PM
                             [**2127-12-24**]  01:53 AM
                             [**2127-12-24**]  06:16 AM
                             [**2127-12-24**]  11:39 AM
                             [**2127-12-24**]  05:08 PM
                             [**2127-12-24**]  09:15 PM
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
   WBC
   13.0
   10.5
   Hct
   23.2
   24.2
   24.5
   25.0
   26.0
   26.6
   32
   27.9
   Plt
   204
   199
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   31
   29
   25
   Glucose
   143
   139
   119
   Other labs: PT / PTT / INR:13.3/40.8/1.1, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:88.0 %, Lymph:6.7 %,
   Mono:3.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   72 year old male with h/o CAD & COPD presents after MVC complicated by
   post-op PE requiring prolonged intubation with Hct drop and presumed
   LGIB.
   #. Mental Status: Unclear as to prognosis. Pt minimally responsive. Pt
   evaluated by neuron with intact brain stem function. MRI done and
   results pending. EEG shows seizure activity, now s/p loading with
   Fosphenytoin- on final read of EEG no seizure activity and slowing
   suggestive of encephalopathy. MRI without evidence of anoxic brain
   injury
   -Continue Fosphenytoin for now pending neuro recs, pt has ongoing EEG
   monitor in place
   - f/u neuro recs
   - Check phenytoin at 7pm tonight prior to next dose
   # Respiratory: Pts respiratory compromise is multifactorial, including
   pulmonary embolism, COPD and aspiration pneumonia/HAP.  He has been
   treated with Cefepime based on a sputum culture growing Enterobacter
   aerogenes; then his abx were changed to Zosyn after repeat CXR [**12-11**]
   showed new left sided infiltrate which improved his WBC; he was to
   complete a 10 day course of abx.
   - sputum culture from [**12-9**] with enterobacter (resistant to ampicillin,
   some cephalosporins)
   -Cont Vanc/Zosyn today is day 12 day course for VAP; will continue
   given ongoing hypotension
   -CXR daily
   -Continue heparin gtt for PE
   -Cautious diuresis goal -500cc
   -Will plan for Trach/PEG tomorrow by IP
   #Hypotension- [**Month (only) 8**] be [**12-23**] to infection (elevated WBC, Left sided pna on
   CXR) vs sedation vs GIB. Cortisol random was 22.  Required vasopressin
   and then levophed, howver now off since 9am today and BP stable so far
   -Resume  Levophed prn to maintain MAP>65
   -F/U Culture data
   -Cautiously diuresing as above to improve respiratory status; if BP
   drops will give back fluids
   #LGIB-Pt noted to have bright red blood at rehab while on heparin gtt;
   gtt has been stopped. He was evaluated at OSH and noted to have 7pt Hct
   drop and received 1U prbcs. Per report, pt had EGD at OSH and not able
   to visualize anything (? no source of UGIB). Differential diagnosis
   includes diverticulosis vs AVM vs maligancy, however now Hct stable
   -Resumed heparin given PE/LV thrombus- hold at MN prior to trach
   - will transfuse for Hct > 25,
   - recheck Hct q12
   -Holding anti-HTNs
   -Once trach/peg; discuss w/GI to consider work up for bleed, not urgent
   currently
   -Pt has CVL in place
   .
   #LV Thrombus/PE- Patient had echo which showed LV thrombus requiring
   anti-coagulation, also with PE post op
   -Resumed heparin gtt yesterday given hct stable
   -LENI
s done overnight-no evidence of DVT
   -ECHO showed 40-45% EF / apical and anterior akinesis
   -Hold heparin MN for trach tomorrow
   .
   #H/o CAD s/p cardiac arrest [**2114**] and a.fibb
   -Continue Sotalol per home regimen (d/w EP and okay to use in ischemic
   heart dz)
   - TTE as above showed EF 45%, anterior akinesis
   -Holding aspirin
   -Holding BB in setting of GIB/Hypotension
   #Borderline DM- Per OSH pt required 40U Lantus with ISS- here only
   using sliding scale given NPO and FS in good control
   -Continue above regimen for now ([**11-22**] when NPO)
   .
   # FEN: NPO for now , plan for PEG
   # PPX: H2 blocker, heparin gtt, bowel regimen
   # ACCESS: CVL (placed [**12-22**] at OSH)
   # CODE: DNR-
   # CONTACT:
   # DISPO: ICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Arterial Line - [**2127-12-24**] 10:25 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2127-12-25 12:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status,
   refractory hypotension on vasopressin.
   24 Hour Events:
   EEG w/ evidence of sz activity yest. MRI done o/n. 24hr EEG started.
   Vasopressin weaned off yest pm but w/ persistent refractory
   hypotension- levophed started and a line placed. Hypoxemia transiently
   resolved spontaneously. Levophed weaned off o/n.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2127-12-25**] 08:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-25**] 10:01 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Colace, Zetia, Ca carbonate, RISS, albuterol, atrovent, lansoprazole,
   sotalol, fosphenytoin, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-25**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 66 (47 - 70) bpm
   BP: 129/57(77) {101/52(68) - 141/70(92)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 13 (9 - 259)mmHg
   Total In:
                                                                  3,091 mL
                                                                    985 mL
   PO:
   TF:
   IVF:
                                                                  2,741 mL
                                                                    865 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,495 mL
                                                                    715 mL
   Urine:
                                                                  2,495 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    596 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/43/78.[**Numeric Identifier 7**]/28/4
   Ve: 11.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, no withdrawal from noxious stimuli
   Labs / Radiology
   8.9 g/dL
   199 K/uL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   23 mg/dL
   108 mEq/L
   141 mEq/L
   27.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2127-12-23**]  11:44 PM
                             [**2127-12-24**]  01:53 AM
                             [**2127-12-24**]  06:16 AM
                             [**2127-12-24**]  11:39 AM
                             [**2127-12-24**]  05:08 PM
                             [**2127-12-24**]  09:15 PM
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
   WBC
   13.0
   10.5
   Hct
   24.2
   24.5
   25.0
   26.0
   26.6
   32
   27.9
   Plt
   204
   199
   Cr
   0.6
   0.6
   TCO2
   31
   29
   25
   30
   Glucose
   139
   119
   Other labs: PT / PTT / INR:13.3/40.8/1.1, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:88.0 %, Lymph:6.7 %,
   Mono:3.1 %, Eos:2.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.6 mg/dL
   Imaging: LENIs- neg
   EEG- final read without seizure activity but with slowing suggestive of
   metabolic/toxic encephalopathy
   MRI brain- no findings to suggest anoxic injury; chronic
   microangiopathic changes
   CXR- bilateral effusions and interstitial infiltrates
   Microbiology: blood and picc line cx- pending
   Assessment and Plan
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   (1) UNCERTAIN MENTAL STATUS- per neuro eval, brainstem fxn intact but
   extent of cerebral fxn uncertain. started on fosphenytoin for possible
   sz activity which is not seen on final report
   -touch base w/ neuro re: continued tx given EEG interpretation as well
   as any other recs
   - minimize sedation
   (2) RESPIRATORY FAILURE- persistent; causes include pneumonia, poss
   pulm edema, PE, COPD
   -plan for trach/ peg tomorrow
   -on empiric ABX for now; f/u cultures
   -cautious diuresis goal neg TBB -500/day
   -cautious anticoag w/ heparin gtt
   -COPD appears stable clinically; scheduled nebs
   (3) SHOCK- resolved; cont to monitor
   (4) GI BLEED- Hct stable
   -GI following, planning for eventual scope
   -follow serial hct, goal hct 25
   -ppi [**Hospital1 **], holding ASA
   (5) CAD/CHF/ AFIB-
   -on sotalol and heparin gtt
   -ASA and BB held for now
   -echo reviewed without LV thrombus
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Arterial Line - [**2127-12-24**] 10:25 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-12-26 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Neuro:check B12, folate, (normal) and RPR (pending)
   -Final MRI: No anoxic brain injury
   -LENIS: negative
   -NPO for Trach via IP today
   -7pm Hct 28.6; stable
   -Goal -500cc negative; 10mg IV lasix given at 1pm-->300cc @ MN, add'l
   10mg IV Lasix given this AM
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2127-12-25**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-26**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2127-12-25**] 12:35 PM
   Furosemide (Lasix) - [**2127-12-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-26**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 62 (58 - 73) bpm
   BP: 129/60(82) {104/52(71) - 152/83(100)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (4 - 14)mmHg
   Total In:
                                                                  1,875 mL
                                                                    398 mL
   PO:
   TF:
   IVF:
                                                                  1,695 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  2,182 mL
                                                                    390 mL
   Urine:
                                                                  2,182 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.49/39/81.[**Numeric Identifier 252**]/28/5
   Ve: 14.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   8.8 g/dL
   100 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   17 mg/dL
   106 mEq/L
   142 mEq/L
   26.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2127-12-24**]  11:39 AM
                             [**2127-12-24**]  05:08 PM
                             [**2127-12-24**]  09:15 PM
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
                             [**2127-12-25**]  06:09 PM
                             [**2127-12-26**]  03:56 AM
                             [**2127-12-26**]  04:16 AM
   WBC
   10.5
   11.6
   Hct
   26.0
   26.6
   32
   27.9
   28.6
   26.6
   Plt
   199
   183
   Cr
   0.6
   0.6
   TCO2
   31
   29
   25
   30
   31
   Glucose
   119
   100
   Other labs: PT / PTT / INR:14.1/26.7/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:88.0 %, Lymph:6.7 %,
   Mono:3.1 %, Eos:2.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   72 year old male with h/o CAD & COPD presents after MVC complicated by
   post-op PE requiring prolonged intubation with Hct drop and presumed
   LGIB.
   #. Mental Status: No evidence of anoxic brain injury, likely metabolic
   encephalopathy. Unclear as to prognosis
   - EEG no seizure activity and slowing suggestive of encephalopathy.
   - MRI without evidence of anoxic brain injury
   - In light of no seizure activity, would discontinue Fosphenytoin,
   confirm with neuro
   - f/u neuro recs
   - Check phenytoin this AM
   - monitor sedation and lighten if possible to monitor mental status
   # Respiratory: S/P Trach, now with multifactorial respiratory failure,
   including pulmonary embolism, COPD and aspiration pneumonia/HAP.  He
   has been treated with Cefepime based on a sputum culture growing
   Enterobacter aerogenes; then his abx were changed to Zosyn after repeat
   CXR [**12-11**] showed new left sided infiltrate which improved his WBC; he
   was to complete a 10 day course of abx.
   - sputum culture from [**12-9**] with enterobacter (resistant to ampicillin,
   some cephalosporins)
   -Cont Vanc/Zosyn today is day  14 of 14 day course for VAP;
   -CXR daily
   -Continue heparin gtt for PE, no LE DVT so no IVC filter
   -Cautious diuresis goal -500cc
   -Will plan for Trach/PEG tomorrow by IP
   #Hypotension- Resolved, [**Last Name (un) 11349**] was [**12-23**] to infection (elevated WBC, Left
   sided pna on CXR) vs sedation vs GIB. Cortisol random was 22.  Required
   vasopressin and then levophed, howver now off
   -F/U Culture data
   -Cautiously diuresing as above to improve respiratory status; if BP
   drops will give back fluids
   #LGIB-Pt noted to have bright red blood at rehab while on heparin gtt;
   gtt has been stopped. He was evaluated at OSH and noted to have 7pt Hct
   drop and received 1U prbcs. Per report, pt had EGD at OSH and not able
   to visualize anything (? no source of UGIB). Differential diagnosis
   includes diverticulosis vs AVM vs maligancy, however now Hct stable
   -Resumed heparin given PE/LV thrombus
   - will transfuse for Hct > 25,
   - recheck Hct q12
   -Holding anti-HTNs
   -Once trach/peg; discuss w/GI to consider work up for bleed, not urgent
   currently
   -Pt has CVL in place
   .
   #LV Thrombus/PE- Patient had echo which showed LV thrombus requiring
   anti-coagulation, also with PE post op
   -Resumed heparin gtt yesterday given hct stable
   -LENI
s done overnight-no evidence of DVT
   -ECHO showed 40-45% EF / apical and anterior akinesis
   -Hold heparin MN for trach tomorrow
   .
   #H/o CAD s/p cardiac arrest [**2114**] and a.fibb
   -Continue Sotalol per home regimen (d/w EP and okay to use in ischemic
   heart dz)
   - TTE as above showed EF 45%, anterior akinesis
   -Holding aspirin
   -Holding BB in setting of GIB/Hypotension
   #Borderline DM- Per OSH pt required 40U Lantus with ISS- here only
   using sliding scale given NPO and FS in good control
   -Continue above regimen for now ([**11-22**] when NPO)
   .
   # FEN: NPO for now , plan for PEG
   # PPX: H2 blocker, heparin gtt, bowel regimen
   # ACCESS: CVL (placed [**12-22**] at OSH)
   # CODE: DNR-
   # CONTACT:
   # DISPO: ICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Arterial Line - [**2127-12-24**] 10:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2127-12-26 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   24 Hour Events:
   trach placed this AM.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;, Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-26**] 02:00 AM
   Vancomycin - [**2127-12-26**] 08:40 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2127-12-25**] 12:35 PM
   Furosemide (Lasix) - [**2127-12-26**] Fentanyl - [**2127-12-26**] 09:33 AM
   Other medications:
   Zetia, RISS, albuterol, lansoprazole, sotalol, fosphenytoin, Peridex,
   norep 0.01 -0.03 mcg/kg/min, Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-26**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 62 (58 - 73) bpm
   BP: 93/48(65) {87/45(61) - 152/83(100)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (4 - 14)mmHg
   Total In:
                                                                  1,875 mL
                                                                    645 mL
   PO:
   TF:
   IVF:
                                                                  1,695 mL
                                                                    585 mL
   Blood products:
   Total out:
                                                                  2,182 mL
                                                                    880 mL
   Urine:
                                                                  2,182 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.49/39/81.[**Numeric Identifier 252**]/28/5
   Ve: 11.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   183 K/uL
   100 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   17 mg/dL
   106 mEq/L
   142 mEq/L
   26.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2127-12-24**]  11:39 AM
                             [**2127-12-24**]  05:08 PM
                             [**2127-12-24**]  09:15 PM
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
                             [**2127-12-25**]  06:09 PM
                             [**2127-12-26**]  03:56 AM
                             [**2127-12-26**]  04:16 AM
   WBC
   10.5
   11.6
   Hct
   26.0
   26.6
   32
   27.9
   28.6
   26.6
   Plt
   199
   183
   Cr
   0.6
   0.6
   TCO2
   31
   29
   25
   30
   31
   Glucose
   119
   100
   Other labs: PT / PTT / INR:14.1/26.7/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:88.0 %, Lymph:6.7 %,
   Mono:3.1 %, Eos:2.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Imaging: CXR- B effusions unchanged
   Assessment and Plan
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   (1) DEPRESSED MENTAL STATUS- per neuro eval, brainstem fxn intact but
   extent of cerebral fxn uncertain.
   - touch base w/ neuro re: continued tx given EEG interpretation (no sz
   activity seen) as well as any other recs
   - minimize sedation --> talk to Neuro about dc/ing fosphenytoin
   - will turn off propofol and re-examine daily
   (2) RESPIRATORY FAILURE- persistent; causes include pneumonia, poss
   pulm edema, PE, COPD
   -plan for trach/ peg today --- bedside trach uneventful
   -on empiric ABX ; completed 14d course; will dc today
   -cautious diuresis goal neg TBB -500/day
   -cautious anticoag w/ heparin gtt
   -COPD appears stable clinically; scheduled nebs
   (3) GI BLEED- Hct stable
   -GI following, planning for eventual lower scope
   -follow serial hct, goal hct 25
   -ppi [**Hospital1 **], holding ASA
   (5) CAD/CHF/ AFIB-
   -on sotalol and heparin gtt
   -ASA and BB held for now
   -echo reviewed without LV thrombus
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Arterial Line - [**2127-12-24**] 10:25 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2127-12-27 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2127-12-26**] 08:50 AM
 ENDOSCOPY - At [**2127-12-26**] 09:25 AM
 PEG INSERTION - At [**2127-12-26**] 09:45 AM
   bedside    trach/peg
   - PEG/TRACH at bedside
   - Weaning down propofol
   - Neuro recs: Continue antiepileptic given incresed delta waves
   (suggestive of organizing seizure like activity)
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-26**] 02:00 AM
   Vancomycin - [**2127-12-26**] 08:40 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2127-12-26**] 12:00 PM
   Fentanyl - [**2127-12-27**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-27**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 86 (58 - 86) bpm
   BP: 110/79(95) {85/45(61) - 158/86(114)} mmHg
   RR: 38 (11 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 11 (10 - 11)mmHg
   Total In:
                                                                  1,279 mL
                                                                    922 mL
   PO:
   TF:
   IVF:
                                                                  1,099 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  2,868 mL
                                                                    342 mL
   Urine:
                                                                  2,843 mL
                                                                    342 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,589 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 826 (602 - 850) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 193
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 14 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   9.0 g/dL
   129 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   15 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2127-12-24**]  09:15 PM
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
                             [**2127-12-25**]  06:09 PM
                             [**2127-12-26**]  03:56 AM
                             [**2127-12-26**]  04:16 AM
                             [**2127-12-26**]  03:57 PM
                             [**2127-12-27**]  05:43 AM
   WBC
   10.5
   11.6
   13.7
   Hct
   32
   27.9
   28.6
   26.6
   27.3
   27.7
   Plt
   199
   183
   192
   Cr
   0.6
   0.6
   0.6
   TCO2
   31
   29
   25
   30
   31
   Glucose
   119
   100
   129
   Other labs: PT / PTT / INR:13.6/38.0/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:90.1 %, Lymph:6.7 %,
   Mono:2.8 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   72 year old male with h/o CAD & COPD presents after MVC complicated by
   post-op PE requiring prolonged intubation with Hct drop and presumed
   LGIB.
   #. Mental Status: No evidence of anoxic brain injury, likely metabolic
   encephalopathy. Unclear as to prognosis
   - EEG no seizure activity and slowing suggestive of encephalopathy.
   - MRI without evidence of anoxic brain injury
   - In light of no seizure activity, would discontinue Fosphenytoin,
   confirm with neuro
   - f/u neuro recs
   - Check phenytoin this AM
   - monitor sedation and lighten if possible to monitor mental status
   # Respiratory: S/P Trach, now with multifactorial respiratory failure,
   including pulmonary embolism, COPD and aspiration pneumonia/HAP.  He
   has been treated with Cefepime based on a sputum culture growing
   Enterobacter aerogenes; then his abx were changed to Zosyn after repeat
   CXR [**12-11**] showed new left sided infiltrate which improved his WBC; he
   was to complete a 10 day course of abx.
   - sputum culture from [**12-9**] with enterobacter (resistant to ampicillin,
   some cephalosporins)
   -Cont Vanc/Zosyn today is day  14 of 14 day course for VAP;
   -CXR daily
   -Continue heparin gtt for PE, no LE DVT so no IVC filter
   -Cautious diuresis goal -500cc
   -Will plan for Trach/PEG tomorrow by IP
   #Hypotension- Resolved, [**Last Name (un) 11349**] was [**12-23**] to infection (elevated WBC, Left
   sided pna on CXR) vs sedation vs GIB. Cortisol random was 22.  Required
   vasopressin and then levophed, howver now off
   -F/U Culture data
   -Cautiously diuresing as above to improve respiratory status; if BP
   drops will give back fluids
   #LGIB-Pt noted to have bright red blood at rehab while on heparin gtt;
   gtt has been stopped. He was evaluated at OSH and noted to have 7pt Hct
   drop and received 1U prbcs. Per report, pt had EGD at OSH and not able
   to visualize anything (? no source of UGIB). Differential diagnosis
   includes diverticulosis vs AVM vs maligancy, however now Hct stable
   -Resumed heparin given PE/LV thrombus
   - will transfuse for Hct > 25,
   - recheck Hct q12
   -Holding anti-HTNs
   -Once trach/peg; discuss w/GI to consider work up for bleed, not urgent
   currently
   -Pt has CVL in place
   .
   #LV Thrombus/PE- Patient had echo which showed LV thrombus requiring
   anti-coagulation, also with PE post op
   -Resumed heparin gtt yesterday given hct stable
   -LENI
s done overnight-no evidence of DVT
   -ECHO showed 40-45% EF / apical and anterior akinesis
   -Hold heparin MN for trach tomorrow
   .
   #H/o CAD s/p cardiac arrest [**2114**] and a.fibb
   -Continue Sotalol per home regimen (d/w EP and okay to use in ischemic
   heart dz)
   - TTE as above showed EF 45%, anterior akinesis
   -Holding aspirin
   -Holding BB in setting of GIB/Hypotension
   #Borderline DM- Per OSH pt required 40U Lantus with ISS- here only
   using sliding scale given NPO and FS in good control
   -Continue above regimen for now ([**11-22**] when NPO)
   .
   # FEN: NPO for now , plan for PEG
   # PPX: H2 blocker, heparin gtt, bowel regimen
   # ACCESS: CVL (placed [**12-22**] at OSH)
   # CODE: DNR-
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Arterial Line - [**2127-12-24**] 10:25 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2127-12-27 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   EEG with evidence of possible subclinical seizure activity, so started
   on dilantin per neurology
   24 Hour Events:
   Weaned off propofol
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-26**] 02:00 AM
   Vancomycin - [**2127-12-26**] 08:40 AM
   Heparin Sodium - 1,450 units/hour
   Calcium carb
   RISS
   Albuterol
   Atrovent
   PPI
   Sotolol
   Dilantin
   Furosemide (Lasix) - [**2127-12-26**] 12:00 PM
   Fentanyl - [**2127-12-27**] 05:20 AM
   Chlorhexidine
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: no changes
   Flowsheet Data as of  [**2127-12-27**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 86 (58 - 86) bpm
   BP: 110/79(95) {85/45(61) - 158/86(114)} mmHg
   RR: 38 (11 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,279 mL
                                                                    982 mL
   PO:
   TF:
   IVF:
                                                                  1,099 mL
                                                                    862 mL
   Blood products:
   Total out:
                                                                  2,868 mL
                                                                    372 mL
   Urine:
                                                                  2,843 mL
                                                                    372 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,589 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 826 (602 - 850) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 193
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 14 L/min
   Physical Examination
   Gen: moving head and arms spontaneously (in soft restraints). No
   tracking, NAD
   HEENT:PERRL, anicteric
   CV:RRR, no m/r/g
   Pulm: CTA
   Abd:soft, NTND
   Extrem: 1+ edema throughout
   Neuro:  no purposeful response to voice. Spontaneous movements as above
   Labs / Radiology
   9.0 g/dL
   192 K/uL
   129 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.4 mEq/L
   15 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2127-12-24**]  09:15 PM
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
                             [**2127-12-25**]  06:09 PM
                             [**2127-12-26**]  03:56 AM
                             [**2127-12-26**]  04:16 AM
                             [**2127-12-26**]  03:57 PM
                             [**2127-12-27**]  05:43 AM
   WBC
   10.5
   11.6
   13.7
   Hct
   32
   27.9
   28.6
   26.6
   27.3
   27.7
   Plt
   199
   183
   192
   Cr
   0.6
   0.6
   0.6
   TCO2
   31
   29
   25
   30
   31
   Glucose
   119
   100
   129
   Other labs: PT / PTT / INR:13.6/38.0/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:90.1 %, Lymph:6.7 %,
   Mono:2.8 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   (1) DEPRESSED MENTAL STATUS- per neuro eval, brainstem fxn intact but
   extent of cerebral fxn uncertain.
   - touch base w/ neuro re: continued tx given EEG interpretation (no sz
   activity seen) as well as any other recs
   - minimize sedation --> talk to Neuro about dc/ing fosphenytoin
   - will turn off propofol and re-examine daily.  Propofol now off, and
   he is mildly agitated/moving spontaneously, but no purposeful
   responses. Does not track
   -MRI not suggestive of anoxic injury
   -hold all sedating meds, but will restart pain medication if he appears
   uncomfortable
   (2) RESPIRATORY FAILURE- persistent; causes include pneumonia, poss
   pulm edema, PE, COPD
   -trach/PEG yesterday
   -Abx d/c yesterday after 14 day course
   -?some fluid overload.  Has been negative without diuretics
   -cautious anticoag w/ heparin gtt for PE
   -COPD appears stable clinically; scheduled nebs
   -try decreasing PS to [**8-24**] today
   (3) GI BLEED- Hct stable
   -GI following, planning for eventual lower scope
   -follow serial hct, goal hct 25
   -ppi [**Hospital1 **], holding ASA
   (5) CAD/CHF/ AFIB-
   -on sotalol and heparin gtt
   -ASA held for now
   -echo reviewed without LV thrombus
   (6) ID: low grade temp today.  If he spikes will pan-culture.  Check UA
   now
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2127-12-23**] 04:19 AM
   Arterial Line - [**2127-12-24**] 10:25 PM
   Prophylaxis:
   DVT: on heparin gtt
   Stress ulcer: PPI
   VAP: chlorhex, HOB 30 degr
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35 min

2127-12-28 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2127-12-27**] 02:53 PM
 MULTI LUMEN - STOP [**2127-12-27**] 10:36 PM
   -- gave 20mg IV lasix (+1L at 6pm)
   -- PICC line placed
   -- Pt on PS [**10-27**] (MMV mode due to episode of apnea)
   -- pt with continued hematuria. Held heparin gtt and urine cleared
   -- pt looked uncomfortable/writhing around. Placed fentanyl patch
   -- at 4:30am was having apneic episodes and some agonal breathing,
   placed him back on AC
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-12-26**] 02:00 AM
   Vancomycin - [**2127-12-26**] 08:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2127-12-27**] 06:45 PM
   Fentanyl - [**2127-12-28**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-28**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 86 (69 - 86) bpm
   BP: 152/87(110) {120/59(79) - 178/134(138)} mmHg
   RR: 26 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,020 mL
                                                                    603 mL
   PO:
             TF:
                                                                    177 mL
                                                                    256 mL
   IVF:
                                                                  1,623 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,832 mL
                                                                    190 mL
   Urine:
                                                                  1,832 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 584 (7 - 769) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   9.9 g/dL
   112 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.6 mEq/L
   17 mg/dL
   107 mEq/L
   144 mEq/L
   30.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
                             [**2127-12-25**]  06:09 PM
                             [**2127-12-26**]  03:56 AM
                             [**2127-12-26**]  04:16 AM
                             [**2127-12-26**]  03:57 PM
                             [**2127-12-27**]  05:43 AM
                             [**2127-12-28**]  03:35 AM
   WBC
   10.5
   11.6
   13.7
   13.8
   Hct
   32
   27.9
   28.6
   26.6
   27.3
   27.7
   30.2
   Plt
   199
   183
   192
   228
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   29
   25
   30
   31
   Glucose
   119
   100
   129
   112
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:90.5 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   72 year old male with h/o CAD & COPD presents after MVC complicated by
   post-op PE requiring prolonged intubation with Hct drop and presumed
   LGIB.
   #. Mental Status: No evidence of anoxic brain injury, likely metabolic
   encephalopathy. Unclear as to prognosis
   - EEG no seizure activity and slowing suggestive of encephalopathy,
   although some delta waves.
   - MRI without evidence of anoxic brain injury
   - Neuro plans to keep phenytoin given concern for seizure despite EEG
   - check phenytoin level daily
   - f/u neuro recs
   - monitor sedation and lighten if possible to monitor mental status
   # Respiratory: S/P Trach/PEG, now with multifactorial respiratory
   failure, including pulmonary embolism, COPD and aspiration
   pneumonia/HAP.  He has been treated with Cefepime based on a sputum
   culture growing Enterobacter aerogenes; then his abx were changed to
   Zosyn after repeat CXR [**12-11**] showed new left sided infiltrate which
   improved his WBC; he was to complete a 14 day course of abx.
   - sputum culture from [**12-9**] with enterobacter (resistant to ampicillin,
   some cephalosporins)
   -completedVanc/Zosyn today is day  14 of 14 day course for VAP;
   -CXR daily
   -Continue heparin gtt for PE, no LE DVT so no IVC filter
   -goal even to -500cc
   - IP recs- no trach changes for 10 days, if need for intubation need to
   intubate from above for the nex 10 days
   #Hypotension- Resolved, [**Last Name (un) 11349**] was [**12-23**] to infection (elevated WBC, Left
   sided pna on CXR) vs sedation vs GIB. Cortisol random was 22.  Required
   vasopressin and then levophed, howver now off
   -F/U Culture data
   -Cautiously diuresing as above to improve respiratory status; if BP
   drops will give back fluids
   #LGIB-Pt noted to have bright red blood at rehab while on heparin gtt;
   gtt has been stopped. He was evaluated at OSH and noted to have 7pt Hct
   drop and received 1U prbcs. Per report, pt had EGD at OSH and not able
   to visualize anything (? no source of UGIB). Differential diagnosis
   includes diverticulosis vs AVM vs maligancy, however now Hct stable
   -Resumed heparin given PE/LV thrombus
   - will transfuse for Hct > 25,
   - recheck Hct q12
   -Holding anti-HTNs
   -GI recs- no plans for inpatient scope. Plan for outpatient workup if
   stable
   -Pt has CVL in place
   .
   #LV Thrombus/PE- Patient had echo which showed LV thrombus requiring
   anti-coagulation, also with PE post op
   -Resumed heparin gtt yesterday given hct stable
   -LENI
s no evidence of DVT
   -ECHO showed 40-45% EF / apical and anterior akinesis
   .
   #H/o CAD s/p cardiac arrest [**2114**] and a.fibb
   -Continue Sotalol per home regimen (d/w EP and okay to use in ischemic
   heart dz)
   - TTE as above showed EF 45%, anterior akinesis
   - holding aspirin
   #Borderline DM- Per OSH pt required 40U Lantus with ISS- here only
   using sliding scale given NPO and FS in good control
   -Continue above regimen for now ([**11-22**] when NPO)
   .
   # FEN: NPO for now , plan for PEG
   # PPX: H2 blocker, heparin gtt, bowel regimen
   # ACCESS: CVL (placed [**12-22**] at OSH)
   # CODE: DNR-
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2127-12-27**] 03:03 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-24**] 10:25 PM
   PICC Line - [**2127-12-27**] 02:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to rehab / long term care facility

2127-12-28 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   EEG with evidence of possible subclinical seizure activity, so started
   on dilantin per neurology
   24 Hour Events:
   Lasix overnight with effective diuresis
   PICC line placed
   Few apneic episodes overnight so changed ventilator mode back to AC
   Some hematuria so heparin gtt held and hematuria resolved
   Fentanyl patch started for suspected pain/agitation
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   hypertension;
   Protonix (Oral) (Pantoprazole Sodium)
   Diarrhea;
   Furosemide (Lasix) - [**2127-12-27**] 06:45 PM
   Fentanyl - [**2127-12-28**] 04:11 AM
   TUMS
   RISS
   Albuterol
   Atrovent
   Lansoprazole
   Sotolol
   Chlorhex
   Dilantin
   Colace
   Neutraphos
   Fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-28**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 86 (69 - 86) bpm
   BP: 152/87(110) {120/59(79) - 178/134(138)} mmHg
   RR: 26 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,020 mL
                                                                    616 mL
   PO:
             TF:
                                                                    177 mL
                                                                    266 mL
   IVF:
                                                                  1,623 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,832 mL
                                                                    190 mL
   Urine:
                                                                  1,832 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 584 (7 - 769) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9.5 L/min
   Physical Examination
   Gen: NAD, awake but does not track or interact
   HEENT: PERRL, anicteric, trach site ok
   CV: RRR, no m/r/g
   Lungs: CTA bilat
   Abd: soft, but somewhat distended, normal bowel sounds
   Extrem: edema lower extreme
   Neuro: unchanged. Non-interactive
   Labs / Radiology
   9.9 g/dL
   228 K/uL
   112 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.6 mEq/L
   17 mg/dL
   107 mEq/L
   144 mEq/L
   30.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2127-12-24**]  10:36 PM
                             [**2127-12-25**]  03:12 AM
                             [**2127-12-25**]  03:35 AM
                             [**2127-12-25**]  09:54 AM
                             [**2127-12-25**]  06:09 PM
                             [**2127-12-26**]  03:56 AM
                             [**2127-12-26**]  04:16 AM
                             [**2127-12-26**]  03:57 PM
                             [**2127-12-27**]  05:43 AM
                             [**2127-12-28**]  03:35 AM
   WBC
   10.5
   11.6
   13.7
   13.8
   Hct
   32
   27.9
   28.6
   26.6
   27.3
   27.7
   30.2
   Plt
   199
   183
   192
   228
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   29
   25
   30
   31
   Glucose
   119
   100
   129
   112
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:444/3/<0.01, Differential-Neuts:90.5 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   PICC tip [**12-24**]: coag neg staph
   Blood cx [**12-23**]: neg
   Assessment and Plan
   72 yo w/ CAD, LV aneurysm, and recent ICU course following orthopedic
   surgery- course notable for asp pna, PE, Enterobatcer VAP, persistent
   resp failure, GI bleed. Transferred for further evaluation- additional
   active issues include persistent SVT, uncertain mental status.
   (1) DEPRESSED MENTAL STATUS- per neuro eval, brainstem fxn intact but
   extent of cerebral fxn uncertain.
   - touch base w/ neuro re: continued tx given EEG interpretation (no sz
   activity seen) as well as any other recs
   - minimize sedation --> talk to Neuro about dc/ing fosphenytoin
   - will turn off propofol and re-examine daily.  Propofol now off, and
   he is mildly agitated/moving spontaneously, but no purposeful
   responses. Does not track
   -MRI not suggestive of anoxic injury
   -hold all sedating meds, but fentanyl patch started for pain
   (2) RESPIRATORY FAILURE- persistent; causes include pneumonia, poss
   pulm edema, PE, COPD
   -trach/PEG yesterday
   -Abx d/c yesterday after 14 day course
   -?some fluid overload.  Has been negative without diuretics
   -cautious anticoag w/ heparin gtt for PE. Will change to lovenox now
   that hematuria cleared.
   -COPD appears stable clinically; scheduled nebs
   -back on AC due to apnea.
   (3) GI BLEED- Hct stable
   -GI following, planning for eventual lower scope
   -follow serial hct, goal hct 25
   -ppi [**Hospital1 **], holding ASA
   -monitor closely while on lovenox for PE
   (5) CAD/CHF/ AFIB-
   -on sotalol
   -lovenox for anticoagulation
   -ASA held for now
   -echo reviewed without LV thrombus
   -CXR looks like more edema, and has more LE edema as well. Lasix for
   goal negative 1L today
   (6) ID: low grade temp again today, and WBC count trending up.
   Recently finished 14 day course of broad-spectrum antibiotics for VAP.
   No additional antibiotics for now, but should be monitored closely, and
   cultured if he spikes.
   ICU Care
   Nutrition: tube feeds now at goal
   Replete with Fiber (Full) - [**2127-12-27**] 03:03 PM 50 mL/hour
   Glycemic Control:  RISS plus basal insulin
   Lines:
   Arterial Line - [**2127-12-24**] 10:25 PM-will d/c before discharge
   PICC Line - [**2127-12-27**] 02:53 PM-confirm placement with radiology before
   d/c
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   VAP: chlorhexidine, HOB 30 degrees
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : to pulm rehab today
   Total time spent: 30 min